US04017492
In the manner given in Example 14, 7-chloro-2-[[1-carboxy-3-[4-(2-hydroxyethyl)piperazino]propylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine can be treated with ethereal diazomethane to give 7-chloro-2-[[1-(methoxycarbonyl)-3-[4-(2-hydroxyethyl)piperazino]-propylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-[[1-carboxy-3-[4-(2-hydroxyethyl)piperazino]propylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCN2CCN(CC2)CCO)C(=O)O)C2=CC=CC=C2)C1 | C25H29ClN6O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 7-chloro-2-[[1-(methoxycarbonyl)-3-[4-(2-hydroxyethyl)piperazino]-propylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCN2CCN(CC2)CCO)C(=O)OC)C2=CC=CC=C2)C1 | C26H31ClN6O3
